*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1212VS-22N
* Inductance = 22nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1212VS-22N_freq port1 port2 PARAMS: Cpar=0.938pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=11.84
+ R2=0.0111
+ C= {Cpar}
+ K1=0.00000603
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=99
+ L_EL=1.97
+ L_F0=23.8E6
+ PkZ=0
.ends 1212VS-22N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1212VS-42N
* Inductance = 42nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1212VS-42N_freq port1 port2 PARAMS: Cpar=1.388pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=17.6
+ R2=0.0007
+ C= {Cpar}
+ K1=0.00000933
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=182
+ L_EL=1.97
+ L_F0=23.8E6
+ PkZ=0
.ends 1212VS-42N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1212VS-66N
* Inductance = 66nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1212VS-66N_freq port1 port2 PARAMS: Cpar=1.548pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=16.8
+ R2=0.0009
+ C= {Cpar}
+ K1=0.0000144
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=287
+ L_EL=1.97
+ L_F0=23.8E6
+ PkZ=0
.ends 1212VS-66N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1212VS-90N
* Inductance = 90nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.52GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1212VS-90N_freq port1 port2 PARAMS: Cpar=1.708pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=14.4
+ R2=0.0013
+ C= {Cpar}
+ K1=0.0000218
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=390
+ L_EL=1.97
+ L_F0=23.8E6
+ PkZ=0
.ends 1212VS-90N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1212VS-111
* Inductance = 110nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.48GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1212VS-111_freq port1 port2 PARAMS: Cpar=1.488pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=23
+ R2=0.0012
+ C= {Cpar}
+ K1=0.0000287
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=490
+ L_EL=1.97
+ L_F0=23.5E6
+ PkZ=0
.ends 1212VS-111_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Aircore Inductor Model w/Rvar
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model3A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ L_Z0=1
+ L_EL=1
+ L_F0=1
G_Rvar1 Lin n001 LAPLACE { V(Lin, n001) } {1/(1e-6+({K1}*((s^2)/(-4*pi^2))^0.25))}
C1 N002 N001 {C}
R1 Lout N002 {R1}
T1 N001 0 N003 0 TD={(L_EL/360)/L_F0} Z0={L_Z0}
R2 Lout N003 {R2}
.ends Model3A






.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
